US07811595B2
Preparation of [(3,5-dihydroxy-pyridine-2-carbonyl)-amino]-acetic acid methyl ester (4):
To a solution [(3,5-bis-benzyloxy-pyridine-2-carbonyl)-amino]-acetic acid methyl ester (3.50 g, 8.62 mmol) in MeOH (100 mL) is added 10% Pd/C (0.350 g, 0.862 mmol) and the reaction mixture stirred under an atmosphere of H2 at room temperature for 16 hours. The suspension is filtered through Celite™ and the filtrate concentrated under reduced pressure. The crude material is purified over silica (MeOH:CH2Cl2 gradient 1% to 5%) to afford 1.95 g (quantitative yield) of the desired compound as an off-white solid. 1H NMR (250 MHz, MeOD) δ ppm 7.62 (1H, d, J=2.4 Hz), 6.53 (1H, d, J=2.4 Hz), 4.04 (2H, s), 3.64 (3H, s). HPLC-MS: m/z 227 [M+H]+.

reactant | [(3,5-bis-benzyloxy-pyridine-2-carbonyl)-amino]-acetic acid methyl ester | 8.62 mmol, 3.50 g | COC(CNC(=O)C1=NC=C(C=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C23H22N2O5
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 0.862 mmol, 0.350 g | [Pd] | Pd
product | [(3,5-dihydroxy-pyridine-2-carbonyl)-amino]-acetic acid methyl ester | 1.95 g, quantitative yield | COC(CNC(=O)C1=NC=C(C=C1O)O)=O | C9H10N2O5
